US06855710B2
c) 4-propionylamino-aniline
250 mg (2 mmol) of N-propionyl-4-nitroaniline are dissolved in 200 ml of methanol and combined with 0.6 g of 10% palladium/charcoal. The product is hydrogenated in a hydrogen atmosphere at 2 bar for 30 minutes. Then the catalyst is filtered off and the solvent is eliminated in vacuo.

reactant | N-propionyl-4-nitroaniline | 2 mmol, 250 mg | C(CC)(=O)NC1=CC=C(C=C1)[N+](=O)[O-] | C9H10N2O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 200 ml | CO | CH4O
catalyst | palladium/charcoal | 0.6 g | [Pd] | Pd
product | 4-propionylamino-aniline | C(CC)(=O)NC1=CC=C(N)C=C1 | C9H12N2O
